US04720500
The procedure is analogous to that described in Example 11, but starting with sodium (2.3 g), 3-methoxyacetophenone (15 g) and ethyl formate (11 g). The solid obtained (20 g) is then added to 2,6-diaminopyridine (11 g). The product obtained after hydrolysis and neutralization with sodium hydroxide is separated by filtration, washed with distilled water (6×100 cc) at 50° C., and then air-dried. 2-Amino-7-(3-methoxyphenyl)-1,8-naphthyridine (23.8 g), m.p. 270°-275° C., is obtained.

reactant | sodium | 2.3 g | [Na] | Na
reactant | 3-methoxyacetophenone | 15 g | CC(=O)C1=CC(=CC=C1)OC | C9H10O2
reactant | ethyl formate | 11 g | C(=O)OCC | C3H6O2
reactant | 2,6-diaminopyridine | 11 g | NC1=NC(=CC=C1)N | C5H7N3
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-Amino-7-(3-methoxyphenyl)-1,8-naphthyridine | 23.8 g | NC1=NC2=NC(=CC=C2C=C1)C1=CC(=CC=C1)OC | C15H13N3O
